US04894386
A solution of 3-methoxy-4-methylbenzoic acid (10.0 g), concentrated sulfuric acid (1 ml), and condensed isobutylene (200 ml) in methylene chloride (200 ml) was placed in a pressure vessel and stirred for 16 hours. The vessel was then opened to vent unreacted isobutylene. The remaining liquid was poured into 10% (w/v) sodium hydroxide solution (150 ml) and extracted twice with ethyl acetate. The combined extracts were washed with brine, dried (MgSO4), and evaporated. The residue was purified by flash chromatography, eluting with 1:9 ethyl acetate:hexane, to give t-butyl 3-methoxy-4-methylbenzoate (9.1 g, 70%) as a colorless oil; NMR (80 MHz, CDCl3): 1.6[s, 9H, C(CH3)3 ], 2.27(s, 3H, CH3), 3.86(s, 3H, OCH3), 7.11(d, 1H), 7.49(m, 2H).

reactant | 3-methoxy-4-methylbenzoic acid | 10.0 g | COC=1C=C(C(=O)O)C=CC1C | C9H10O3
reactant | sulfuric acid | 1 ml | S(O)(O)(=O)=O | H2O4S
reactant | isobutylene | 200 ml | CC(C)=C | C4H8
reactant | sodium hydroxide | 150 ml | [OH-].[Na+]
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
product | t-butyl 3-methoxy-4-methylbenzoate | 9.1 g, 70% | COC=1C=C(C(=O)OC(C)(C)C)C=CC1C | C13H18O3
